spice
* SPICE Netlist
*.model statements would be here (e.g., .model NMOS NMOS, .model PMOS PMOS)
VDD 24 0 DC 10
Iss 3 0 DC 0.1
M1 6 3 0 0 NMOS
M2 2 3 0 0 NMOS
M3 4 5 24 24 PMOS
M4 2 5 24 24 PMOS
C1 24 5 1u
C2 24 2 1u
R1 4 4 1k
? Missing component
Vin 6 0 Sin(0 1 1k)
* Control statements (e.g., .tran, .ac, .dc) would be added here.
.end
